US07829580B2
Di(t-butyl) dicarbonate (50.0 g) and potassium carbonate (41.0 g) were added to a solution of 1,2,4-triazole-3-carbaldehyde hydrochloride (19.8 g) in a mixed solvent of 2-propanol (300 ml) and water (300 ml). After the mixture was stirred at room temperature for 2 hours, the product was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure and the residue was purified by silica gel chromatography using hexane and ethyl acetate (1:1) as an eluent to give 1-(t-butoxycarbonyl)-1H-1,2,4-triazole-3-carbaldehyde (10.26 g).

reactant | Di(t-butyl) dicarbonate | 50.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 41.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4-triazole-3-carbaldehyde hydrochloride | 19.8 g | Cl.N1N=C(N=C1)C=O
reactant | 2-propanol | 300 ml | CC(C)O | C3H8O
solvent | water | 300 ml | O | H2O
product | 1-(t-butoxycarbonyl)-1H-1,2,4-triazole-3-carbaldehyde | 10.26 g | C(C)(C)(C)OC(=O)N1N=C(N=C1)C=O | C8H11N3O3
